US08703953B2
Prepared as described in Example 8, Part C using (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate and N-(8-chloro-5-methyl-5H-chromeno[3,4-c]pyridin-4-yl)acetamide to afford tert-butyl((2S)-1-((4-acetamido-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (0.6 g, 0.882 mmol, 51% yield) as a yellow solid. LCMS (ESI) m/e 470.2 [(M+H)+, calcd for C26H36N3O5 470.3]; LC/MS retention time (Method C): tR=1.89 min.

reactant | (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate | C(C)(C)(C)OC(N[C@H](CO)CC(C)C)=O | C11H23NO3
reactant | N-(8-chloro-5-methyl-5H-chromeno[3,4-c]pyridin-4-yl)acetamide | ClC=1C=CC2=C(C1)OC(C1=C(N=CC=C12)NC(C)=O)C | C15H13ClN2O2
product | tert-butyl((2S)-1-((4-acetamido-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.882 mmol, 0.6 g, 51% yield | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1)OC(C1=C(N=CC=C12)NC(C)=O)C)CC(C)C)=O | C26H35N3O5
